Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Vivitrol / lisinopril
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ Year old male with PMH significant for alcohol abuse here
after fall while intoxicated and hitting his right side of the
chest on a bench. The patient has history of prior falls 
injuries
however, has never been admitted to inpatient at this
institution. 

The patient was brought in by EMS, and in the ED had a EtOh of
>300. On imaging he has R sided ___ ribs fracture, a minimal
hemopneumothorax and acute on chronic nasal fracture. His head
and neck CT scans did not reveal acute traumatic injuries. 
Trauma surgery is consulted regarding management traumatic rib
fractures. 
At time of our evaluation he is endorsing pain on right chest
wall, more with deep breathing, no SOB, no palpitation. He 
denies
head trauma, LOC. 

 
Past Medical History:
Past Medical History:
Depression, HTN, low back pain

Past Surgical History:
Nose fracture repair one year ago
 
Social History:
___
Family History:
none
 
Physical Exam:
98.___  ___
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist. No spinal TTP.
no TTP over head and face. mildly TTP over nose.  
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, TTP over the right chest wall.
no distress on RA.
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: No ___ edema, ___ warm and well perfused, ___ forces in
proximal and distal muscles grossly in upper and lower 
extremity.
 
Pertinent Results:
Discharge labs

___ 07:14AM   GLUCOSE-93 UREA N-6 CREAT-0.7 SODIUM-142 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-23 ANION GAP-17
___ 07:14AM   CALCIUM-8.3* PHOSPHATE-3.0 MAGNESIUM-1.2*
___ 07:14AM   WBC-4.1 RBC-3.80* HGB-11.9* HCT-36.1* MCV-95 
MCH-31.3 MCHC-33.0 RDW-14.9 RDWSD-51.8*

CT Chest ___. Acute mildly displaced fractures involving the right seventh 
through
twelfth ribs. Fractures of the right ninth rib are segmental. 
Additional
chronic and subacute rib fractures are noted.
2. Small right hydropneumothorax.
3. Hepatic steatosis.

CT Max/Face ___
Re-demonstration of known potentially acute on chronic 
comminuted fracture of
the nasal bone. Additional chronic facial fractures without 
additional acute
fracture.

CT Head ___. No acute intracranial abnormality.
2. Acute comminuted fracture of the nasal bone.
3. Paranasal sinus disease.

CT C-Spine ___
No acute fracture or traumatic malalignment.
 
Brief Hospital Course:
The patient was admitted to the trauma service after fall while 
intoxicated from a park bench.  He was evaluated in the 
emergency department and found to have right sided rib fractures 
and an acute on chronic closed nasal fracture.  He did not have 
significant pain or oxygenation difficulties with regards to 
these injuries.  He was admitted to the hospital for 
observation.  He was found to be able to maintain his oxygen 
saturation on room air and is not having trouble breathing 
through his nose.  Plastic and reconstructive surgery was 
consulted for his nasal fracture and he was instructed to 
observe sinus precautions and follow up in their clinic as 
needed. He was discharged with instructions to continue using 
his IS.   On the day of discharge, his pain was well controlled, 
he was ambulating well, tolerating a diet, and his breathing was 
unlabored.  He knows to follow up as needed. 
 
Medications on Admission:
Amlodipine 10'
Atorvastatin 10'
Quetiapine ___ QHS
Sertralin 100'

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  QUEtiapine Fumarate 50 mg PO QHS  
3.  Sertraline 50 mg PO DAILY  
4.  amLODIPine 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R ___ ribs Fx
small nasal fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ after 
your fall.  You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

* Your injury caused right ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

You also have a small nasal bone fracture.  Please call the 
plastic surgery clinic for follow up if you have trouble 
breathing through your nose. 
 
Followup Instructions:
___